US07385059B2
3,4-Dinitrofluorobenzene (1.86 g, 10 mmol) and 4-hydroxy-1-methylpiperidine (1.38 g, 12 mmol) were dissolved in THF (20 ml) and stirred at ambient temperature while sodium hydride (60% dispersion in mineral oil, 0.40 g, 10 mmol) was added in several small portions. The reaction mixture was stirred for one hour and then reduced in vacuo, partitioned between ethyl acetate and water, and the organic phase washed with brine, dried (MgSO4) and reduced in vacuo. The resulting residue was subject to column chromatography, eluting with 5% MeOH/DCM to give a yellow solid (1.76 g, 2:1 ratio of 4-(3,4-dinitro-phenoxy)-1-methyl-piperidine and a 4-(4-fluoro-2-nitro-phenoxy)-1-methyl-piperidine).

reactant | 3,4-Dinitrofluorobenzene | 10 mmol, 1.86 g | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])F | C6H3FN2O4
reactant | 4-hydroxy-1-methylpiperidine | 12 mmol, 1.38 g | OC1CCN(CC1)C | C6H13NO
reactant | sodium hydride | 10 mmol, 0.40 g | [H-].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-(3,4-dinitro-phenoxy)-1-methyl-piperidine | [N+](=O)([O-])C=1C=C(OC2CCN(CC2)C)C=CC1[N+](=O)[O-] | C12H15N3O5
